US04124594
Twenty-eight ml. of hexamethyldisilazane and 3 drops of trimethylchlorosilane are added to 10 g. γ-amino-3-hydroxybutyric acid in 100 ml. anhydrous acetonitrile. The reaction mixture is heated under reflux in a current of nitrogen until a clear solution is obtained. The resulting mixture is cooled to ambient temperature and 50 ml. propylene oxide are added thereto, followed by the dropwise addition of 9.4 ml. ethyl bromoacetate. The reaction mixture is heated under reflux for 15 hours, cooled to ambient temperature and then evaporated to dryness in vacuo. The residue obtained, which contains crude 2-(4-trimethyl-silyloxypyrrolidin-2-on-1-yl)-ethyl acetate is separated by chromatography on a eluting silica gel column, using ethyl acetate as elution agent. Eight g. 2-(4-Hydroxypyrrolidin-2-on-1-yl)-ethyl acetate are obtained in the form of a colorless oil; b.p. 180° C./0.8 mm.Hg.

reactant | hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | γ-amino-3-hydroxybutyric acid | NCC(CC(=O)O)O | C4H9NO3
reactant | propylene oxide | C1C(C)O1 | C3H6O
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
catalyst | trimethylchlorosilane | 3 drops | C[Si](Cl)(C)C | C3H9ClSi
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-(4-Hydroxypyrrolidin-2-on-1-yl)-ethyl acetate | C(C)(=O)OCCN1C(CC(C1)O)=O | C8H13NO4
